US08471005B2
N-Methyl-N-{2-[2-(5-morpholin-4-yl-pyridin-2-ylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-methanesulfonamide
Into a 8-dram vial, 5-Morpholin-4-yl-pyridin-2-ylamine (0.108 g, 0.604 mmol), N-[2-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide (0.100 g, 0.274 mmol), Cesium fluoride (0.104 g, 0.686 mmol), N,N-Diisopropylethylamine (0.1051 mL, 0.6036 mmol) and tert-Butyl alcohol (1.50 mL) were added. The reaction was heated at 120° C. overnight. LCMS suggested presence of desired product. The solvent was removed under vacuum. The reaction mixture was purified via HPLC reverse phase chromatography with 0.1% TFA in Water and 0.1% TFA in ACN. The collected fractions were lyophilized to give a yellow solid (40 mg, 33%). LCMS (E/I+) 480.14 (M+H). NMR 1H (DMSO-d6)-10.49 (bs, 1H), 9.09 (s, 1H), 7.86-7.92 (m, 1H), 7.84 (bs, 1H), 7.70-7.80 (m, 1H), 7.66-7.73 (m, 1H), 7.50-7.64 (m, 3H), 7.13 (bs, 1H), 7.11 (bs, 1H), 3.75 (bs, 4H), 3.14 (s, 3H), 3.11 (bs, 4H), 2.83 (s, 3H).

reactant | 5-Morpholin-4-yl-pyridin-2-ylamine | 0.604 mmol, 0.108 g | N1(CCOCC1)C=1C=CC(=NC1)N | C9H13N3O
reactant | N-[2-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide | 0.274 mmol, 0.100 g | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)N(S(=O)(=O)C)C | C15H16N4O3S2
reactant | Cesium fluoride | 0.686 mmol, 0.104 g | [F-].[Cs+]
reactant | N,N-Diisopropylethylamine | 0.6036 mmol, 0.1051 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tert-Butyl alcohol | 1.50 mL | C(C)(C)(C)O | C4H10O
product | N-Methyl-N-{2-[2-(5-morpholin-4-yl-pyridin-2-ylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-methanesulfonamide | CN(S(=O)(=O)C)C1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)NC2=NC=C(C=C2)N2CCOCC2 | C23H25N7O3S
